US05137913
A mixture of 2-naphthalenethiol (3.2 g), 3-iodobromobenzene (6.7 g), potassium carbonate (1.4 g), cuprous chloride (0.4 g) and DMF (4 ml) was heated to reflux for 1 hour. The mixture was allowed to cool to ambient temperature and was partitioned between diethyl ether and water. The mixture was filtered and the organic layer was separated, dried (MgSO4) and evaporated. The residue was taken up in ethyl acetate, decolourised by treatment with charcoal, reisolated and purified by recrystallisation from methanol to give 3-bromophenyl 2-naphthyl sulphide (3.9 g, 65%), m.p. 68°-70° C.

reactant | 2-naphthalenethiol | 3.2 g | C1=C(C=CC2=CC=CC=C12)S | C10H8S
reactant | 3-iodobromobenzene | 6.7 g | IC=1C=C(C=CC1)Br | C6H4BrI
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 3-bromophenyl 2-naphthyl sulphide | 3.9 g, 65% | C1=C(C=CC2=CC=CC=C12)SC1=CC(=CC=C1)Br | C16H11BrS
